### PR TITLE
chore: fix typos in declarations

### PR DESCRIPTION
**Pull request by Multramate**
Corrects misspelled words in declaration names across the library, e.g.
`div_nat_le_self_of_nonnneg`, `archimdeanClassMk_coe`, `absicssaOfAbsConv_eq_one`,
`unramfiedLocus`, `contangentEquiv_tmul`, `jacobian_resentation`, `sylveserMap`,
`domCoprod_alternization`, `qoutMapEquivTensorQout` and `MonadCoherehnceHom`.

Every renamed declaration keeps a deprecated alias, including instances and
class-field projections; the two private declarations get private aliases.

Three instances whose only name was a misspelling are left unnamed instead, as
suggested in review. Their misspelled names are deprecated in favour of the
autogenerated ones, so nothing that compiled before this PR breaks.

`IsLocalDiffeomorphAt.contmdiffOn_localInverse` is removed rather than renamed,
since its statement and proof duplicate those of the existing
`IsLocalDiffeomorphAt.localInverse_contMDiffOn`; its name becomes a deprecated
alias for that lemma.

---

### How this PR was produced

The renames in this PR were generated by Claude. The instructions it was given were:

* Fix typos in declaration names across the library, and change nothing else. Do not
  rename anything that is not a misspelling, and in particular do not touch named
  instances — whether instances should be named at all is a separate discussion.
* Keep a deprecated alias for every renamed declaration, so that nothing which
  compiled before this PR breaks afterwards.
* Merge `master`, then work through the review comments one at a time. Where a
  reviewer's point applies to further declarations, apply it to those as well.

Where the result departs from those instructions, it is because a reviewer asked for
it, and the reasoning is in the thread on the relevant line. In particular: three
instances lost their names entirely rather than being renamed, which is why they are
now unnamed with their old names deprecated; `cpolynomialOn_uncurry_of_linear` keeps
its lower-cased `cpolynomial` prefix per the convention for lower-casing a leading
string of capitals; and `lsmul_eq_distribSMulToLinearMap` concatenates the namespace
in `lowerCamelCase` rather than separating it with an underscore.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Additive.lean [hunk 1]
```diff
@@ -117,7 +117,7 @@ def Functor.mapHomologicalComplex (F : W₁ ⥤ W₂) [F.PreservesZeroMorphisms]
 instance (F : W₁ ⥤ W₂) [F.PreservesZeroMorphisms] (c : ComplexShape ι) :
     (F.mapHomologicalComplex c).PreservesZeroMorphisms where
 
-instance Functor.map_homogical_complex_additive (F : V ⥤ W) [F.Additive] (c : ComplexShape ι) :
+instance Functor.mapHomologicalComplex_additive (F : V ⥤ W) [F.Additive] (c : ComplexShape ι) :
     (F.mapHomologicalComplex c).Additive where
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Homology/Additive.lean]:
```suggestion
instance (F : V ⥤ W) [F.Additive] (c : ComplexShape ι) : (F.mapHomologicalComplex c).Additive where
```

File: Mathlib/Algebra/Vertex/HVertexOperator.lean [hunk 2]
```diff
@@ -70,17 +64,18 @@ def coeff : HVertexOperator Γ R V W →ₗ[R] Γ → V →ₗ[R] W where
   map_add' _ _ := by ext; simp
   map_smul' _ _ := by ext; simp
 
-theorem coeff_isPWOsupport (A : HVertexOperator Γ R V W) (v : V) :
+theorem coeff_isPWO_support (A : HVertexOperator Γ R V W) (v : V) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Vertex/HVertexOperator.lean]: Should probably even be:
```suggestion
theorem isPWO_support_coeff (A : HVertexOperator Γ R V W) (v : V) :
```

File: Mathlib/Algebra/Order/Hom/TypeTags.lean [hunk 3]
```diff
@@ -96,7 +96,7 @@ instance Additive.instUniqueOrderAddMonoidIso {G H : Type*}
     Unique (Additive G ≃+o Additive H) :=
   OrderMonoidIso.toAdditive.symm.unique
 
-instance Multiplicative.instUniqueOrderdMonoidIso {G H : Type*}
+instance Multiplicative.instUniqueOrderMonoidIso {G H : Type*}
     [AddCommMonoid G] [PartialOrder G] [AddCommMonoid H] [PartialOrder H] [Unique (G ≃+o H)] :
     Unique (Multiplicative G ≃*o Multiplicative H) :=
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Order/Hom/TypeTags.lean]:
```suggestion
instance {G H : Type*} [AddCommMonoid G] [PartialOrder G] [AddCommMonoid H] [PartialOrder H]
    [Unique (G ≃+o H)] : Unique (Multiplicative G ≃*o Multiplicative H) :=
```

File: Mathlib/Algebra/Homology/Additive.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/Algebra/Homology/Additive.lean]: Yeah, definitely, thanks. I just told Claude to fix typos rather than address named instances. Do you think all instances should be unnamed? I can make another PR for that.

File: Mathlib/Algebra/Vertex/HVertexOperator.lean [hunk 4]
```diff
@@ -92,7 +94,8 @@ theorem coeff_of_coeff (f : Γ → V →ₗ[R] W)
   rfl
 
 @[simp]
-theorem of_coeff_coeff (A : HVertexOperator Γ R V W) : of_coeff A.coeff A.coeff_isPWOsupport = A :=
+theorem of_coeff_coeff (A : HVertexOperator Γ R V W) :
+    of_coeff A.coeff A.coeff_isPWO_support = A :=
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Vertex/HVertexOperator.lean]:
```suggestion
theorem of_coeff_coeff (A : HVertexOperator Γ R V W) : of_coeff A.coeff A.coeff_isPWO_support = A :=
```

File: Mathlib/AlgebraicGeometry/Spec.lean [hunk 5]
```diff
@@ -304,7 +304,7 @@ def LocallyRingedSpace.SpecΓIdentity : Spec.toLocallyRingedSpace.rightOp ⋙ Γ
 end SpecΓ
 
 /-- The stalk map of `Spec M⁻¹R ⟶ Spec R` is an iso for each `p : Spec M⁻¹R`. -/
-theorem isIso_SpecMap_stakMap_localization (R : CommRingCat.{u}) (M : Submonoid R)
+theorem isIso_SpecMap_stalkMap_localization (R : CommRingCat.{u}) (M : Submonoid R)
```
Comment (SnirBroshi) [inline Mathlib/AlgebraicGeometry/Spec.lean]:
```suggestion
theorem isIso_specMap_stalkMap_localization (R : CommRingCat.{u}) (M : Submonoid R)
```

File: Mathlib/Analysis/Analytic/CPolynomial.lean [hunk 6]
```diff
@@ -210,13 +210,16 @@ lemma cpolynomialAt_uncurry_of_linear :
     ContinuousLinearMap.cpolynomialAt _ _
   exact f.flipLinear.cpolynomialAt_uncurry_of_multilinear.comp this
 
-lemma cpolyomialOn_uncurry_of_linear :
+lemma cpolynomialOn_uncurry_of_linear :
```
Comment (SnirBroshi) [inline Mathlib/Analysis/Analytic/CPolynomial.lean:210]: I think the naming convention says this should be
```suggestion
lemma cPolynomialOn_uncurry_of_linear :
```
but maybe that should be a separate PR since there are lots of these in this file

File: Mathlib/Algebra/Homology/Additive.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Algebra/Homology/Additive.lean]: Whether to name instances has been discussed pretty often. I am in favour of naming them much less often than we currently do. A problem is that sometimes the resulting auto-generated name is too long.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean
Comment (Vierkantor) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:175]: Not sure that this is the right naming choice: I see a lot of `_localInverse` and a lot of `localInverse_` in this file.

File: Mathlib/Algebra/Homology/ShortComplex/Homology.lean [hunk 7]
```diff
@@ -675,19 +655,18 @@ noncomputable def ofIsIsoLeftRightHomologyComparison'
 
 end HomologyData
 
-lemma leftRightHomologyComparison'_eq_leftHomologpMap'_comp_iso_hom_comp_rightHomologyMap'
+lemma leftRightHomologyComparison'_eq_leftHomologyMap'_comp_iso_hom_comp_rightHomologyMap'
```
Comment (Vierkantor) [inline Mathlib/Algebra/Homology/ShortComplex/Homology.lean:678]: This seems to be missing a deprecation.

**Comment by JovanGerb** [comment]
You have a lot of merge conflicts. Are you on a very old version of mathlib here?

File: Mathlib/Analysis/Analytic/CPolynomial.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/Analysis/Analytic/CPolynomial.lean:210]: Two lines above it says cpolynomial. I have no idea what this is but I'm willing to trust you. I'll do it in a later PR!

File: Mathlib/LinearAlgebra/BilinearMap.lean
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/BilinearMap.lean]: The original is correct, the namespace is `lowerCamelCase`-concatenated with the last bit, see also `Nat.cast` -> `natCast`

**Comment by Multramate** [comment]
> You have a lot of merge conflicts. Are you on a very old version of mathlib here?

Hmm strange, I thought I've just pulled mathlib last night. In any case I have a bot doing the bump in the background so we just wait :)

File: Mathlib/LinearAlgebra/BilinearMap.lean
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/BilinearMap.lean]: (I think this is the only case in the PR where the rule fails to be applied but I'd want to go through the declaration diff to be sure.)

**Review by Vierkantor — COMMENTED** [review]
Ouch, some painful typos indeed, nicely spotted. Generally good, some further improvements. Could you please check that all your changes have an associated deprecation?

File: Mathlib/Algebra/Homology/ShortComplex/Homology.lean (hunk 7 above)
Comment (Multramate) [reply Mathlib/Algebra/Homology/ShortComplex/Homology.lean:678]: Yeah, I'm not sure why my bot added deprecations for some but not others. In any case they will be added soon.

File: Mathlib/LinearAlgebra/BilinearMap.lean
Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/BilinearMap.lean]: Although the `to` needs to be uppercased

File: Mathlib/LinearAlgebra/Dual/Defs.lean [hunk 8]
```diff
@@ -257,7 +257,7 @@ lemma dualMap_dualMap_eq_iff_of_injective
   dualMap_dualMap_eq_iff_of_injective _ _ (bijective_dual_eval R M').injective
 
 /-- The dual of a reflexive module is reflexive. -/
-instance Dual.instIsReflecive : IsReflexive R (Dual R M) :=
+instance Dual.instIsReflexive : IsReflexive R (Dual R M) :=
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Dual/Defs.lean]:
```suggestion
instance : IsReflexive R (Dual R M) :=
```

File: Mathlib/Analysis/Analytic/CPolynomial.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/CPolynomial.lean:210]: No, it should definitely be `cpolynomialOn_uncurry_of_linear`. The name alone is `CPolynomialOn`, and when one lower cases it one should lower case the starting string of capitals.

Comment (Multramate) [reply Mathlib/Analysis/Analytic/CPolynomial.lean:210]: Is this akin to LE vs le?

File: Mathlib/Basic/Logic/Basic.lean [hunk 9]
```diff
@@ -692,17 +692,13 @@ theorem Exists.fst {b : Prop} {p : b → Prop} : Exists p → b
 theorem Exists.snd {b : Prop} {p : b → Prop} : ∀ h : Exists p, p h.fst
   | ⟨_, h⟩ => h
 
-theorem Prop.exists {p : Prop → Prop} : (∃ h, p h) ↔ p False ∨ p True :=
+theorem Prop.exists_iff {p : Prop → Prop} : (∃ h, p h) ↔ p False ∨ p True :=
```
Comment (JX-Mo) [inline Mathlib/Basic/Logic/Basic.lean]: This is not a typo. I think someone delibrately did the opposite two weeks ago
```
@[deprecated (since := "2026-09-02")] alias Prop.exists_iff := Prop.exists
```

File: Mathlib/Basic/Logic/Basic.lean [hunk 10]
```diff
@@ -692,17 +692,13 @@ theorem Exists.fst {b : Prop} {p : b → Prop} : Exists p → b
...
     (fun H ↦ .inl <| by simpa only [H] using h₂), fun h ↦ h.elim (.intro _) (.intro _)⟩
 
-@[deprecated (since := "2026-09-02")] alias Prop.exists_iff := Prop.exists
-
-theorem Prop.forall {p : Prop → Prop} : (∀ h, p h) ↔ p False ∧ p True :=
+theorem Prop.forall_iff {p : Prop → Prop} : (∀ h, p h) ↔ p False ∧ p True :=
   ⟨fun H ↦ ⟨H _, H _⟩, fun ⟨h₁, h₂⟩ h ↦ by by_cases H : h <;> simpa only [H]⟩
 
-@[deprecated (since := "2026-09-02")] alias Prop.forall_iff := Prop.forall
-
```
Comment (JX-Mo) [inline Mathlib/Basic/Logic/Basic.lean:705]: We should check what happened at 2026-09-02

File: Mathlib/Basic/Logic/Basic.lean (hunk 9 above)
Comment (Multramate) [reply Mathlib/Basic/Logic/Basic.lean]: I sometimes have no idea what Claude is doing...

File: Mathlib/Data/Set/Prod.lean [hunk 11]
```diff
@@ -1018,9 +1018,11 @@ lemma exists_equiv_range_eq_graphOn_univ {f : α → β × γ} (hf₁ : Surjecti
 
 Let `s : Set (β × γ)` be a set in a product. Assume that `s` maps bijectively to the first factor.
 Then `s` is the graph of some function `f : β → γ`. -/
-lemma exists_eq_mgraphOn_univ {s : Set (β × γ)}
+lemma exists_eq_graphOn_univ {s : Set (β × γ)}
```
Comment (JX-Mo) [inline Mathlib/Data/Set/Prod.lean]:
```suggestion
lemma exists_eq_univGraphOn {s : Set (β × γ)}
```

Comment (Multramate) [inline Mathlib/Data/Set/Prod.lean:1021]: But graphOn and univ are separate declarations?

Comment (JX-Mo) [reply Mathlib/Data/Set/Prod.lean:1021]: sorry, I didn't notice that this is a dot notation. It should be `exists_eq_graphOn_univ`.
